US08314091B2
B: 3-((4(4-Amino-2-chlorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
N-tert-Butyl-3-((4-(2-chloro-4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide (1.9483 g, 4.2 mmol) was added to a suspension of reduced iron powder (2.3623 g, 42 mmol) and 1M hydrochloric acid (6 mL) in isopropanol. The reaction was stirred at room temperature for 2 hours. The reaction was concentrated under reduced pressure and the remaining residue was taken up in dichloromethane and washed with water. The organic phase was dried over magnesium sulphate and concentrated under vacuum to afford the title compound (1.57 g).

reactant | N-tert-Butyl-3-((4-(2-chloro-4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide | 4.2 mmol, 1.9483 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O)=O | C23H27ClN4O4
reactant | hydrochloric acid | 1M, 6 mL | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-((4(4-Amino-2-chlorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 1.57 g | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)Cl | C23H29ClN4O2
